US04419357
Hydrogenation of 19 g of 2-nitro-N-(1H-tetrazol-5-yl)benzamide in 100 ml of aqueous 1N sodium hydroxide solution and 100 ml of ethanol using 0.5 g of 5% Pd/C catalyst and 2 atmospheres pressure gave 2-amino-N-(1H-tetrazol-5-yl)benzamide melting at about 253°-254° C.

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 2-amino-N-(1H-tetrazol-5-yl)benzamide | NC1=C(C(=O)NC2=NN=NN2)C=CC=C1 | C8H8N6O
reactant | ethanol | 100 ml, 0.5 g | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-nitro-N-(1H-tetrazol-5-yl)benzamide | 19 g | [N+](=O)([O-])C1=C(C(=O)NC2=NN=NN2)C=CC=C1 | C8H6N6O3
